US08110687B2
A suspension of N-(3-tert-butylphenyl)-7-{[2-(4-formyl-1H-imidazol-2-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide (570 mg, 1.2 mmol) in 2-methyl-2-butene (3 mL), acetonitrile (6 mL) and tert-butyl alcohol (6 mL) was cooled to 0° C. To this cold reaction mixture was added a solution of sodium chlorite (646 mg, 5.71 mmol) and sodium dihydrogenphosphate (680 mg, 5.6 mmol) in water (3 mL). The yellow solution was allowed to stir at 0° C. overnight. The reaction was quenched by the addition of brine (3 mL) and extracted with EtOAc (15 mL×3). The combined organic solutions were washed with brine and dried over Na2SO4, filtered and concentrated to give 2-{4-[(7-{[(3-tert-butylphenyl)amino]carbonyl}-5,6,7,8-tetrahydronaphthalen-2-yl)oxy]pyridin-2-yl}-1H-imidazole-4carboxylic acid (I-155), which was used without further purification. LCMS: (FA) ES+ 511.2.

reactant | N-(3-tert-butylphenyl)-7-{[2-(4-formyl-1H-imidazol-2-yl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxamide | 1.2 mmol, 570 mg | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CC2=CC(=CC=C2CC1)OC1=CC(=NC=C1)C=1NC=C(N1)C=O | C30H30N4O3
reactant | sodium chlorite | 5.71 mmol, 646 mg | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 5.6 mmol, 680 mg | P(=O)(O)(O)[O-].[Na+]
solvent | 2-methyl-2-butene | 3 mL | CC(C)=CC | C5H10
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
solvent | tert-butyl alcohol | 6 mL | C(C)(C)(C)O | C4H10O
solvent | water | 3 mL | O | H2O
product | 2-{4-[(7-{[(3-tert-butylphenyl)amino]carbonyl}-5,6,7,8-tetrahydronaphthalen-2-yl)oxy]pyridin-2-yl}-1H-imidazole-4carboxylic acid | C(C)(C)(C)C=1C=C(C=CC1)NC(=O)C1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)C=1NC=C(N1)C(=O)O | C30H30N4O4
